US07812183B2
(3S,4R)-3-Hydroxy-4-(2H-imidazol-2-ylsulfanyl)-2,2-dimethyl-chroman-6-carbonitrile (Compound #25)
(S,S)-2,2-Dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile (1 mmoL), 1,3-dihydro-imidazole-2-thione (1 mmoL) and anhydrous K2CO3 (1.5 mmoL) in DMF (5 mL) were heated at 100° C. for 4˜6 hrs. The solid was filtered off and the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with saturated NH4Cl, brine, then dried over anhydrous Na2SO4, filtered and concentrated to yield a yellow oil. Silica gel chromatography separation yielded the title compound as a white solid.

reactant | (S,S)-2,2-Dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile | CC1([C@@H]2[C@H](C3=CC(=CC=C3O1)C#N)O2)C | C12H11NO2
reactant | 1,3-dihydro-imidazole-2-thione | N1C(NC=C1)=S | C3H4N2S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (3S,4R)-3-Hydroxy-4-(2H-imidazol-2-ylsulfanyl)-2,2-dimethyl-chroman-6-carbonitrile | O[C@H]1C(OC2=CC=C(C=C2[C@H]1SC1N=CC=N1)C#N)(C)C | C15H15N3O2S
